US04004014
After boiling a solution of 7.5 g of 3-nitrobenzaldehyde and 15.8 g of N,N-dimethyl-3,3-diaminoacrylic acid ethyl ester in 150 ml of ethanol for 4 hours, the solution was concentrated in vacuo. On triturating the resulting oil with ether, filtering off the crystals which separated out and crystallizing these from isopropanol, the yellow-orange colored crystals of 2-amino-6-dimethylamino-4-(3'-nitrophenyl)-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester, of melting point 149° C, were obtained. Yield, 61% of theory.

reactant | 3-nitrobenzaldehyde | 7.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | N,N-dimethyl-3,3-diaminoacrylic acid ethyl ester | 15.8 g | C(C)OC(C=C(N)N(C)C)=O | C7H14N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-6-dimethylamino-4-(3'-nitrophenyl)-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)N(C)C)N | C19H24N4O6
